US08669271B2
4-[2-(5-Bromo-2-chloro-pyridin-4-yl)-acetyl]-piperidine-1-carboxylic acid tert-butyl ester
Lithium bis(trimethylsilyl)amide solution (1.0 M in tetrahydrofuran; 11.00 mL) is added drop wise to 5-bromo-2-chloro-4-picoline (950 mg) in tetrahydrofuran (15 mL) at −40° C. under an argon atmosphere. The mixture is stirred for 2 h at −35° C. to −45° C. prior to the addition of piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester (1.33 g), dissolved in tetrahydrofuran (15 mL). The reaction mixture is allowed to warm to room temperature over a period of 1 h. Ice cold water is added and the mixture is extracted with ethyl acetate. The combined extracts are washed with brine, dried over MgSO4, and concentrated in vacuo. The residue is chromatographed on silica gel (cyclohexane/ethyl acetate 75:25→60:40) to give the title compound. LC (method 7): tR=1.43 min; Mass spectrum (ESI+): m/z=417, 419 [M+H]+.

reactant | Lithium bis(trimethylsilyl)amide | 1.0 M, 11.00 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 5-bromo-2-chloro-4-picoline | 950 mg | BrC=1C(=CC(=NC1)Cl)C | C6H5BrClN
reactant | piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester | 1.33 g | C(C)OC(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C13H23NO4
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 4-[2-(5-Bromo-2-chloro-pyridin-4-yl)-acetyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C(CC1=CC(=NC=C1Br)Cl)=O | C17H22BrClN2O3
